US07838524B2
N-{3-tert-Butyl-1-[4-(2-methoxyethoxy)phenyl]-1H-pyrazol-5-yl}-N′-[4-(pyridin-4-yloxy)-phenyl]urea
To a solution of 5-tert-butyl-2-[4-(2-methoxyethoxy)phenyl]2H-pyrazol-3-ylamine (75 mg, 0.26 mmol) in anhydrous DCE (1.0 mL) was added CDT (37 mg, 0.31 mmol), and the reaction mixture was stirred at 60° C. for 6 h. A solution of 4-(pyridin-4-yloxy)phenylamine (48 mg, 0.26 mmol) in DCE (1.3 mL) was then added, and the mixture was stirred at 60° C. for 20 h. The reaction mixture was diluted into EtOAc. The organic layer was washed with water and brine, dried over Na2SO4, filtered, and concentrated at reduced pressure. The crude product was purified by HPLC and recrystallized from ether/DCM/hexane to give 45.2 mg (35%) of the title compound as a white solid. 1H-NMR (DMSO-d6) δ 9.01 (s, 1H), 8.39 (d, J=4.8 Hz, 2H), 8.28 (s, 1H), 7.46 (d, J=8.4 Hz, 2H), 7.38 (d, J=8.7 Hz, 2H), 7.05 (d, J=8.7 Hz, 4H), 6.84 (d, J=4.8 Hz, 2H), 6.29 (s, 1H), 4.14 to 4.10 (m, 2H), 3.66 to 3.63 (m, 2H), 3.28 (s, 3H), 1.23 (s, 9H); MS LC-MS [M+H]+=502, RT=2.80 min.

reactant | 5-tert-butyl-2-[4-(2-methoxyethoxy)phenyl]2H-pyrazol-3-ylamine | 0.26 mmol, 75 mg | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)OCCOC)N | C16H23N3O2
reactant | 4-(pyridin-4-yloxy)phenylamine | 0.26 mmol, 48 mg | N1=CC=C(C=C1)OC1=CC=C(C=C1)N | C11H10N2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCE | 1.0 mL | ClCCCl | C2H4Cl2
solvent | DCE | 1.3 mL | ClCCCl | C2H4Cl2
product | N-{3-tert-Butyl-1-[4-(2-methoxyethoxy)phenyl]-1H-pyrazol-5-yl}-N′-[4-(pyridin-4-yloxy)-phenyl]urea | 45.2 mg, 35% | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1)C1=CC=C(C=C1)OCCOC | C28H31N5O4
